US08791108B2
To a mixture of ethyl 6-(2-ethoxy-1-hydroxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (3.7 g, 6.41 mmol) in CH2Cl2 (80 mL) was added Dess-Martin Periodinane (2.72 g, 6.41 mmol) and the resulting mixture was stirred at rt for 1 hr. Then diluted with ethyl acetate (500 mL) and washed with sat. NaHCO3 solution (100 mL), dried (Na2SO4), filtered, concentrated and the residue was purified by silica gel chromatography (5-70% EtOAc/hexane) to afford desired ethyl 6-(2-ethoxy-2-oxoacetyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (2.5 g, 5.80 mmol, 91% yield) as off-white solid. 1H NMR (400 MHz, CDCl3) δ: 7.36 (s, 1H), 4.50 (dq, J=14.5, 7.1 Hz, 4H), 2.56 (s, 3H), 1.46 (t, J=7.2 Hz, 3H), 1.48 (t, J=7.2 Hz, 3H). LCMS (M+H)=431.87.

reactant | ethyl 6-(2-ethoxy-1-hydroxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 6.41 mmol, 3.7 g | C(C)OC(C(O)C=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C)=O | C14H16IN3O5
reactant | Dess-Martin Periodinane | 6.41 mmol, 2.72 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 6-(2-ethoxy-2-oxoacetyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 5.80 mmol, 2.5 g, 91% yield | C(C)OC(C(=O)C=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C)=O | C14H14IN3O5
